US05616596
To a -30° C. solution of 2-(4-fluorophenylmethyl)furan, prepared as in step 1 (32.0 g, 0.18 mol) in anhydrous DMF (60 mL) was added a solution of bromine (28.9 g, 0.18 mol) in CH2Cl2 (250 mL). The mixture was stirred for 0.5 hours at -10° C. and poured into pentane (1600 mL). The penlane was then decanted from the dark colored insoluble layer. Evaporation of the pentane gave the crude product which was purified by flash-chromatography on silica gel eluting with penlane to provide 2-Bromo-5-(4-fluorophenylmethyl)furan as a cream colored solid in a yield of 8.87 g (19.2%).

reactant | 2-(4-fluorophenylmethyl)furan | FC1=CC=C(C=C1)CC=1OC=CC1 | C11H9FO
reactant | bromine | 0.18 mol, 28.9 g | BrBr | Br2
reactant | pentane | 1600 mL | CCCCC | C5H12
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-(4-fluorophenylmethyl)furan | BrC=1OC(=CC1)CC1=CC=C(C=C1)F | C11H8BrFO
